US07462617B2
5-Methanesulfonyl-2-thiazol-2-yl-benzoic acid is prepared by saponification of 5-Methanesulfonyl-2-thiazol-2-yl-benzoic acid methyl ester in the presence of sodium hydroxide (2N) in a mixture of dioxane and ethanol at 80 deg for 30 minutes. Brow solid, 50% yield, MS (m/e): 282.2 (M−H, 100%)

reactant | 5-Methanesulfonyl-2-thiazol-2-yl-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)S(=O)(=O)C)C=1SC=CN1)=O | C12H11NO4S2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | 5-Methanesulfonyl-2-thiazol-2-yl-benzoic acid | 50% yield | CS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)C=1SC=CN1 | C11H9NO4S2
